US05688954
A slurry of 3-(5-acetylmercaptopentanoyl)pyridinium methanesulphonate (7.0 g) in ethyl acetate (50 ml) is stirred with a solution of sodium bicarbonate (5 g) in water (50 ml). The ethyl acetate phase is then washed 3 times with water until its pH is 5, dried over magnesium sulphate, filtered and evaporated under reduced pressure to give S-(4-nicotinoylbutyl) thioacetate (4.3 g) in the form of a dark oil which solidifies upon standing (m.p. 43° C.).

reactant | 3-(5-acetylmercaptopentanoyl)pyridinium methanesulphonate | 7.0 g | CS(=O)(=O)[O-].C(C)(=O)SCCCCC(=O)C=1C=[NH+]C=CC1
reactant | sodium bicarbonate | 5 g | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 50 ml | O | H2O
product | S-(4-nicotinoylbutyl) thioacetate | 4.3 g | C(C)(=O)SCCCCC(C1=CN=CC=C1)=O | C12H15NO2S
